US04451462
A solution of 86.6 g (0.46 mole) of 4-methyl-3-(pyrrol-1-yl)-anisole in 1.5 liters of absolute methylene chloride is cooled to -78° with acetone/dry ice. At this temperature, 231.7 g (0.92 mole) of boron tribromide are added dropwise. Subsequently, the cooling bath is removed and the reaction mixture is heated to from 0° to 5°, then poured into 2 liters of ice/water, and the methylene chloride phase is removed and washed with saturated sodium chloride solution. The aqueous phases are then extracted a further twice with methylene chloride. The organic phases are combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Distillation of the residue in a high vacuum yields 4-methyl-3-(pyrrol-1-yl)-phenol, b.p. 105°-107°/0.03 torr, Rf (toluene/ethyl acetate=10:1): 0.38.

reactant | 4-methyl-3-(pyrrol-1-yl)-anisole | 0.46 mole, 86.6 g | CC1=C(C=C(C=C1)OC)N1C=CC=C1 | C12H13NO
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | boron tribromide | 0.92 mole, 231.7 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1.5 liters | C(Cl)Cl | CH2Cl2
product | 4-methyl-3-(pyrrol-1-yl)-phenol | CC1=C(C=C(C=C1)O)N1C=CC=C1 | C11H11NO
